US08466186B2
(a) 4-Chloro-2-fluoro-5-nitrobenzonitrile
A mixture of 4-chloro-2-fluorobenzonitrile (4.62 g; 29.7 mmol) in conc. H2SO4 (42 mL) was treated dropwise with conc. HNO3 (3.9 mL) at 1-2° C. After stirring at 1-2° C. for 2 h the mixture was poured into ice and filtered.

reactant | 4-chloro-2-fluorobenzonitrile | 29.7 mmol, 4.62 g | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | HNO3 | 3.9 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 42 mL | OS(=O)(=O)O | H2O4S
product | 4-Chloro-2-fluoro-5-nitrobenzonitrile | ClC1=CC(=C(C#N)C=C1[N+](=O)[O-])F | C7H2ClFN2O2
